US07915267B2
N-{[4′-({2-[(aminocarbonyl)(hydroxy)amino]-3-methylbutyl}sulfonyl)biphenyl-3-yl]methyl}-4-oxo-3,4-dihydroquinazoline-2-carboxamide
A suspension of N-[(4′-{[2-(hydroxyamino)-3-methylbutyl]sulfonyl}biphenyl-3-yl)methyl]-4-oxo-3,4-dihydroquinazoline-2-carboxamide obtained in Reference Example 107 (0.050 g, 0.096 mmol) and N,N-diisopropylethylamine (0.017 mL, 0.096 mmol) in THF (10 mL) was added dropwise to a suspension of triphosgene (0.0094 g, 0.032 mmol) in THF (2 mL) at 0° C., and the mixture was stirred at room temperature for 2 hr. 28% Aqueous ammonia (0.065 mL, 0.960 mmol) was added thereto, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from EtOH-water to give the title compound as a white powder (0.045 g, 83%).

reactant | N-[(4′-{[2-(hydroxyamino)-3-methylbutyl]sulfonyl}biphenyl-3-yl)methyl]-4-oxo-3,4-dihydroquinazoline-2-carboxamide | ONC(CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC(=O)C1=NC2=CC=CC=C2C(N1)=O)C(C)C | C27H28N4O5S
reactant | N,N-diisopropylethylamine | 0.096 mmol, 0.017 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | triphosgene | 0.032 mmol, 0.0094 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | ammonia | 0.960 mmol, 0.065 mL | N | H3N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-{[4′-({2-[(aminocarbonyl)(hydroxy)amino]-3-methylbutyl}sulfonyl)biphenyl-3-yl]methyl}-4-oxo-3,4-dihydroquinazoline-2-carboxamide | 0.045 g, 83% | NC(=O)N(C(CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC(=O)C1=NC2=CC=CC=C2C(N1)=O)C(C)C)O | C28H29N5O6S
